US07973061B2
2-{[2-(4-Trifluoromethoxyphenoxy)-acetylamino]-methyl}thiazole-4-carboxylic acid [2-(3-chlorophenyl)-ethyl]amide:
2-Aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide (0.54 g, 1.8 mmol) was dissolved in methylene chloride (15 mL). (4-Trifluoromethoxyphenoxy)-acetyl chloride (0.47 g, 1.8 mmol) was added followed by pyridine (0.3 mL, 4 mmol) and DMAP (0.02 g, 0.1 mmol). The mixture was stirred for 12 hours. Saturated, aqueous NH4Cl was added and the mixture was extracted with methylene chloride ×3. The combined organic extracts were washed with 1N HCl, saturated, aqueous NaHCO3, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The material was purified by recrystallization from ethanol/diethyl ether to afford the title compound (0.65 g, 68% from the Boc protected amine): 1H NMR (400 MHz, d6-DMSO): 9.08 (t, 1H), 8.40 (t, 1H), 8.10 (s, 1H), 7.27 (m, 5H), 7.17 (d, 1H), 7.06 (d, 2H), 4.65 (s, 2H), 4.62 (d, 2H), 3.48 (m, 2H), 2.84 (t, 2H); MS (ESI-LCMS) for C22H20ClF3N3O4S: 514 (MH+).

reactant | 2-Aminomethyl-thiazole-4-carboxylic acid [2-(3-chlorophenyl)ethyl]amide | 1.8 mmol, 0.54 g | ClC=1C=C(C=CC1)CCNC(=O)C=1N=C(SC1)CN | C13H14ClN3OS
reactant | (4-Trifluoromethoxyphenoxy)-acetyl chloride | 1.8 mmol, 0.47 g | FC(OC1=CC=C(OCC(=O)Cl)C=C1)(F)F | C9H6ClF3O3
reactant | pyridine | 4 mmol, 0.3 mL | N1=CC=CC=C1 | C5H5N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 mmol, 0.02 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-{[2-(4-Trifluoromethoxyphenoxy)-acetylamino]-methyl}thiazole-4-carboxylic acid [2-(3-chlorophenyl)-ethyl]amide | ClC=1C=C(C=CC1)CCNC(=O)C=1N=C(SC1)CNC(COC1=CC=C(C=C1)OC(F)(F)F)=O | C22H19ClF3N3O4S
